US07589206B2
(a) 7-Chloro-3-methyl-4-(tetrahydro-pyran-4-ylcarbamoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester
Prepared in a similar manner to Example 11 (b) from 7-chloro-3-methyl-pyrrolo[2,3-c]pyridine-1,4-dicarboxylic acid 1-tert-butyl ester and using tetrahydro-pyran-4-ylamine (195 mg) instead of morpholine. The title compound was further purified by trituration with ether/isohexane to give an off-white solid (324 mg).

reactant | 7-chloro-3-methyl-pyrrolo[2,3-c]pyridine-1,4-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C=C(C2=C1C(=NC=C2C(=O)O)Cl)C | C14H15ClN2O4
reactant | tetrahydro-pyran-4-ylamine | 195 mg | O1CCC(CC1)N | C5H11NO
product | 7-Chloro-3-methyl-4-(tetrahydro-pyran-4-ylcarbamoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester | 324 mg | C(C)(C)(C)OC(=O)N1C=C(C=2C1=C(N=CC2C(NC2CCOCC2)=O)Cl)C | C19H24ClN3O4
